US05332726
BOC-2,2-dibenzyl glycine (3.29 g, 9.25 mmol) is dissolved in a solution of methanol(18 ml) and water (2 ml) and the pH adjusted to 8 with 20% cesium carbonate solution (11 ml). The solution is concentrated in vacuo to dryness and the residue dissolved in dimethylformamide (DMF) (25 ml) and re-concentrated twice and dried under high vacuum. The cesium salt is taken up into DMF (25 ml), benzyl bromide (1.74 g, 10.2 mmol) is added and the mixture stirred at room temperature for 16 hours. The mixture is concentrated in vacuo and the residue diluted with ether. The organic phase is washed with water, brine, dried over magnesium sulfate, and concentrated in vacuo. The crude product is purified by flash chromatography, eluting with 10% ethyl acetate in hexane to give BOC-2,2-dibenzyl glycine benzyl ester.

reactant | BOC-2,2-dibenzyl glycine | 9.25 mmol, 3.29 g | C(=O)(OC(C)(C)C)NC(C(=O)O)(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H25NO4
reactant | cesium carbonate | 11 ml | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 25 ml | CN(C=O)C | C3H7NO
reactant | benzyl bromide | 10.2 mmol, 1.74 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methanol | 18 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | BOC-2,2-dibenzyl glycine benzyl ester | C(C1=CC=CC=C1)OC(C(NC(=O)OC(C)(C)C)(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C28H31NO4
